US04427437
Preparation of 3-(5-chloro-2-pyrimidyloxy)phenyltrimethylammonium iodide (81)
A solution of 5-chloro-2-(3-dimethylaminophenoxy)pyrimidine (3.75 g) and methyl iodide (4.50 g) in ether (25 ml) was stirred at room temperature for one week. Filtration of the ether solution gave 2.75 g (47%) of the title compound, mp 155° C.

reactant | 5-chloro-2-(3-dimethylaminophenoxy)pyrimidine | 3.75 g | ClC=1C=NC(=NC1)OC1=CC(=CC=C1)N(C)C | C12H12ClN3O
reactant | methyl iodide | 4.50 g | CI | CH3I
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-(5-chloro-2-pyrimidyloxy)phenyltrimethylammonium iodide | 2.75 g, 47% | [I-].ClC=1C=NC(=NC1)OC=1C=C(C=CC1)[N+](C)(C)C | InChI=1S/C13H15ClN3O.HI/c1-17(2,3)11-5-4-6-12(7-11)18-13-15-8-10(14)9-16-13;/h4-9H,1-3H3;1H/q+1;/p-1
